US08202856B2
5-[1-(2-Bromophenyl)-5-methyl-1H-1,2,3-triazole-4-yl]-3-(2,5-difluorophenyl)-1,2,4-oxadiazole
The title compound was prepared following procedure described for Example 1, but starting from 1-(2-bromophenyl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid, prepared according to Zhang, Z.-Y. et al. Magn. Reson. Chem. 1998, 36, 159-460 (56.42 mg; 0.20 mmol) and 2,5-difluoro-N′-hydroxybenzenecarboximid amide (JRD-Fluoro, 37.87 mg; 0.22 mmol). The reaction mixture was filtered through an NH2 SPE column (1 g) and evaporated. The residue was taken up into pyridine and heated at 100° C. for 7 h, in order to complete oxadiazole formation. Pyridine was evaporated and the crude product was purified by flash chromatography (SiO2: 10 g; cyclohexane/EtOAc gradient from 90/10 till 50/50) and dried to afford Example 3 as a yellow solid. 1H NMR: (DMSO-d6, 300 MHz) δ 8.06 (dd, J=1.70 Hz, J=7.73 Hz, 1H), 8.02-7.97 (m, 1H), 7.86 (dd, J=1.89 Hz, J=7.53 Hz, 1H), 7.80-7.69 (m, 2H), 7.63 (dt, J=1.91 Hz, J=6.58 Hz, 2H), 2.61 (s, 3H). LC/MS: 419.93 (M+H)+. HPLC (Method A) Rt 4.92 min (Purity: 96%).

reactant | 1-(2-bromophenyl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid | BrC1=C(C=CC=C1)N1N=NC(=C1C)C(=O)O | C10H8BrN3O2
reactant | 2,5-difluoro-N′-hydroxybenzenecarboximid amide | 0.22 mmol, 37.87 mg | FC1=C(C=C(C=C1)F)C(N)=NO | C7H6F2N2O
product | 5-[1-(2-Bromophenyl)-5-methyl-1H-1,2,3-triazole-4-yl]-3-(2,5-difluorophenyl)-1,2,4-oxadiazole | BrC1=C(C=CC=C1)N1N=NC(=C1C)C1=NC(=NO1)C1=C(C=CC(=C1)F)F | C17H10BrF2N5O
